US05470878
A mixture of theobromine (17.64 g, 98 mmol) and sodium hydride (2.35 g, 98 mmol) in dimethylsulfoxide (250 ml) was stirred for 15 minutes. 9-Bromo-1-nonene (20.0 g, 98 mmol) was added and stirring continued for 3 days. The reaction mixture was poured into water (300 ml) and extracted with dichloromethane (4×200 ml). The combined organic layers were washed with saturated aqueous sodium chloride solution (2×150 ml), dried over sodium sulfate, and the solvents evaporated under vacuum. The residue was crystallized (dichloromethane-ether) to give 1-(8-nonenyl)-3,7-dimethylxanthine (24.34 g, 99% yield) as white crystals.

reactant | theobromine | 98 mmol, 17.64 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | sodium hydride | 98 mmol, 2.35 g | [H-].[Na+]
reactant | 9-Bromo-1-nonene | 98 mmol, 20.0 g | BrCCCCCCCC=C | C9H17Br
reactant | water | 300 ml | O | H2O
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-(8-nonenyl)-3,7-dimethylxanthine | 24.34 g, 99% yield | C(CCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C16H24N4O2
